US07994192B2
Synthesis of compound XVIII, 5-(3-amino-propylamino)-4H-thieno[3,2-b]pyridine-7-one hydrochloride salt
A solution of 2,2-dimethyl-5-(methylsulfanyl-thiophene-3-ylamino-methylene)-[1,3]dioxane-4,6-dione (27.83 g, 92.8 mmol) in DCM/MeOH (4:1, 120 mL) was added to a solution of 1,3-diaminopropane (54.9 g, 138 mmol) in DCM/MeOH (4:1, 140 mL) (cooled in an ice bath) over one hour. The ice bath was removed after addition was complete. The reaction was stirred for 2 h at ambient temperature, then diluted with DCM (100 mL) and the resultant organic solution was washed with water (60 mL X 4) and brine (60 mL). Then, acetic anhydride (11 mL, 116 mmol) and trimethylamine (16 mL, 111.4 mmol) was added to the above organic solution and stirred for 30 min. An aqueous work-up with 1N HCl, then NaHCO3 (saturated) and then brine was performed. The organic was dried with MgSO4, filtered and volatile solvents removed in vacuo to afford the desired product N-(3-{[(2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidene)-(thiophen-3-ylamnio)-ethyl]-amino}-propyl)-acetamide (30.7 g, 84%) as a brown oil, which was used in the next step without purification. 1H NMR (CDCl3): 11.3 (1H, br s), 10.0 (1H, br s), 7.33 (1H, dd, J=3.2, 5 MHz), 7.07 (1H, d, J=3.2 MHz), 6.98 (1H, d, J=5), 3.20 (2H, quart, J 6.4 MHz), 3.90 (1H, quart. J=6.8 MHz), 1.94 (3H, s), 1.73 (6H, s), 1.68 (2H, m) ppm.

reactant | 2,2-dimethyl-5-(methylsulfanyl-thiophene-3-ylamino-methylene)-[1,3]dioxane-4,6-dione | 92.8 mmol, 27.83 g | CC1(OC(C(C(O1)=O)=C(NC1=CSC=C1)SC)=O)C | C12H13NO4S2
reactant | 1,3-diaminopropane | 138 mmol, 54.9 g | NCCCN | C3H10N2
reactant | acetic anhydride | 116 mmol, 11 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethylamine | 111.4 mmol, 16 mL | CN(C)C | C3H9N
reactant | HCl | 1N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM MeOH | 120 mL | C(Cl)Cl.CO
solvent | DCM MeOH | 140 mL | C(Cl)Cl.CO
solvent | brine | [Cl-].[Na+].O
product | 5-(3-amino-propylamino)-4H-thieno[3,2-b]pyridine-7-one hydrochloride salt | Cl.NCCCNC1=CC(C2=C(N1)C=CS2)=O | InChI=1S/C10H13N3OS.ClH/c11-3-1-4-12-9-6-8(14)10-7(13-9)2-5-15-10;/h2,5-6H,1,3-4,11H2,(H2,12,13,14);1H
